US06544990B2
N-(4-chlorobenzyl)-8-[3-(1,1-dioxido-4-thiomorpholinyl)-1-propynyl]-1-methyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
To a solution of N-(4-chlorobenzyl)-8-iodo-1-methyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide (300 mg), PdCl2(PPh3)2 (19.1 mg), and CuI (5.2 mg) in Et2NH (6.2 mL) is added 4-propargylthiomorpholine-1,1-dioxide (103.8 mg). Anhydrous DMF (18 mL) is added to help solubilize the reactants (also requires sonication). The reaction is stirred at room temperature overnight, then condensed. The resulting residue is placed under high vac to remove residual DMF. The crude product is dissolved in CH2Cl2 and partitioned between CH2Cl2 and H20. The aqueous layer is extracted with CH2Cl2 (2×). The combined organic layers are dried over Na2SO4, filtered, and condensed. The crude product is adsorbed onto silica and chromatographed (eluent 100% CH2Cl2 (1L), 0.5% MeOH in CH2Cl2 (1L), 1% MeOH in CH2Cl2 (1L), 1.5% MeOH in CH2Cl2 (1L), and 2% MeOH in CH2Cl2 (4L), and 2.5% MeOH in CH2Cl2 (3L)). Product-containing fractions are combined, concentrated, and further purified by HPLC. The product is recrystallized from hot acetonitrile to afford 86.1 mg (27%) of the desired product as a white solid.

reactant | N-(4-chlorobenzyl)-8-iodo-1-methyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 300 mg | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CN2CCOCC2)I)C)C=C1 | C23H23ClIN3O3
reactant | 4-propargylthiomorpholine-1,1-dioxide | 103.8 mg | C(C#C)N1CCS(CC1)(=O)=O | C7H11NO2S
reactant | DMF | 18 mL | CN(C)C=O | C3H7NO
solvent | Et2NH | 6.2 mL | N(CC)CC | C4H11N
catalyst | PdCl2(PPh3)2 | 19.1 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 5.2 mg | [Cu]I
product | N-(4-chlorobenzyl)-8-[3-(1,1-dioxido-4-thiomorpholinyl)-1-propynyl]-1-methyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 86.1 mg, 27% | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CN2CCOCC2)C#CCN2CCS(CC2)(=O)=O)C)C=C1 | C30H33ClN4O5S
